US07576215B2
3,3′-(3-PHENYLQUINOLINE-4,8-DIYL)DIPHENOL
This compound was prepared according to the procedure of example 1, substituting 4-bromo-8-chloro-3-phenyl-quinoline and 3-hydroxybenzeneboronic acid MS (ESI) m/z 390.

reactant | 4-bromo-8-chloro-3-phenyl-quinoline | BrC1=C(C=NC2=C(C=CC=C12)Cl)C1=CC=CC=C1 | C15H9BrClN
reactant | 3-hydroxybenzeneboronic acid | OC=1C=C(C=CC1)B(O)O | C6H7BO3
product | 3,3′-(3-PHENYLQUINOLINE-4,8-DIYL)DIPHENOL | C1(=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)O)C=1C=C(C=CC1)O | C27H19NO2
